US09260411B2
tert-butyl 2,6-dichloroisonicotinate
To a 12-L flask equipped with an overhead stirrer and a thermocouple was charged 2,6-dichloroisonicotinic acid (875 g, 4.56 mol) and 4-dimethylamino pyridine (110 g, 0.91 mol) followed by 1-methyl-2-pyrrolidinone (2.4 kg). After stirring for 15 minutes to dissolve the solids, di-tert-butyl dicarbonate (2-03 kg, 9.6 mol) was charged as a melt. A water bath (25° C.) was placed around the flask for cooling then triethylamine (450 g, 4.56 mol) was charged over 15 minutes while maintaining the temperature below 35° C. The reaction was complete after 19 hours at about room temperature. The reaction mixture was diluted with methyl tert-butyl ether (6 L) and water (8 L) containing KH2PO4 (840 g, 6.38 mol). After cooling to a temperature<30° C. the aqueous phase was separated and the methyl tert-butyl ether layer was filtered through a Celite® bed to remove insoluble material. The methyl tert-butyl ether layer was then washed with water (2×6 L). To the methyl tert-butyl ether layer was charged Darco-G60 (85 g) and the mixture was stirred for 1 hour and filtered through a Celite® pad. The organic layer was distilled under vacuum to a total volume of, 5 L. The distillation was continued, maintaining the volume by the addition of methanol (8 L). The slurry in methanol was warmed to 50° C. to dissolve the solids and then cooled to ambient temperature to crystallize. Water (1.5 L) was added over 30 minutes. The slurry was filtered and the solid washed with a mixture of methanol (5.0 L) and water (2.0 L) in 2 portions. The cake was dried under vacuum (50° C., nitrogen bleed) resulting in 970 g (88% yield) of light brown powder. 1H NMR (400 MHz, CDCl3) δ ppm 1.59 (s, 9H) 7.71 (s, 2H).

reactant | 2,6-dichloroisonicotinic acid | 4.56 mol, 875 g | ClC=1C=C(C(=O)O)C=C(N1)Cl | C6H3Cl2NO2
reactant | di-tert-butyl dicarbonate | 9.6 mol | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 4.56 mol, 450 g | C(C)N(CC)CC | C6H15N
reactant | KH2PO4 | 6.38 mol, 840 g | OP(=O)(O)[O-].[K+]
catalyst | 4-dimethylamino pyridine | 0.91 mol, 110 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methyl tert-butyl ether | 6 L | C(C)(C)(C)OC | C5H12O
solvent | water | 8 L | O | H2O
solvent | 1-methyl-2-pyrrolidinone | 2.4 kg | CN1C(CCC1)=O | C5H9NO
product | tert-butyl 2,6-dichloroisonicotinate | 88% yield | ClC=1C=C(C(=O)OC(C)(C)C)C=C(N1)Cl | C10H11Cl2NO2
